US08859574B2
To a solution of 1-(tert-butoxycarbonylamino)cyclopropanecarboxylic acid (201 mg, 1.0 mmol) in DMF (2 mL) was added NaH (120 mg, 3.0 mmol) at 0° C. The resulting mixture was stirred at 0° C. for 10 min. before the addition of MeI (568 mg, 4.0 mmol). The mixture was then warmed up to room temperature and stirred for 2 hr. Saturated NH4Cl aqueous solution (20 mL) was added into the mixture, and the solution was extracted with EtOAc (3×10 mL). The combined organic layers were concentrated and the residue was dissolved in MeOH (3 ml) with NaOH (3 N, 1 mL). This mixture was stirred at 80° C. for 1 hr and cooled down to room temperature. The clear solution was purified directly on preparative RP-HPLC to provide 1-(tert-butoxycarbonyl(methyl)amino)cyclopropanecarboxylic acid. ESMS m/z 238.2 (M+Na+).

reactant | 1-(tert-butoxycarbonylamino)cyclopropanecarboxylic acid | 1.0 mmol, 201 mg | C(C)(C)(C)OC(=O)NC1(CC1)C(=O)O | C9H15NO4
reactant | NaH | 3.0 mmol, 120 mg | [H-].[Na+]
reactant | MeI | 4.0 mmol, 568 mg | CI | CH3I
reactant | NH4Cl | 20 mL | [NH4+].[Cl-]
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 1-(tert-butoxycarbonyl(methyl)amino)cyclopropanecarboxylic acid | C(C)(C)(C)OC(=O)N(C1(CC1)C(=O)O)C | C10H17NO4
